US04587052
In 120 ml of pyridine were reacted 300 mg of 5,10,11,11a-tetrahydro-9-hydroxy-11-methoxy-8-methyl-5-oxo-1H-pyrrolo-[2,1-C][1,4]benzodiazepine and 1 g of 1-(4-carboxyphenyl)-2-chloroethane, for 12 hr at 50° C. After completion of the reaction, purification and recrystallization were conducted in the same manner as in Example 14 to obtain a light yellow crystal of 5,10,11,11a-tetrahydro-9-[2-(4-carboxyphenyl)-ethoxy]-11-methoxy-8-methyl-5-oxo-1H-pyrrolo-[2,1-C][1,4]benzodiazepine-2-acrylamide having a melting point of 193° to 195° C. Further, this product was converted to a corresponding sodium salt in the same manner as in Example 14. The yield of the sodium salt was 350 mg.

reactant | 5,10,11,11a-tetrahydro-9-hydroxy-11-methoxy-8-methyl-5-oxo-1H-pyrrolo-[2,1-C][1,4]benzodiazepine | 300 mg | OC1=C(C=CC=2C(N3C(C(NC21)OC)CC=C3)=O)C | C14H16N2O3
reactant | 1-(4-carboxyphenyl)-2-chloroethane | 1 g | C(=O)(O)C1=CC=C(C=C1)CCCl | C9H9ClO2
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | 5,10,11,11a-tetrahydro-9-[2-(4-carboxyphenyl)-ethoxy]-11-methoxy-8-methyl-5-oxo-1H-pyrrolo-[2,1-C][1,4]benzodiazepine-2-acrylamide | C(=O)(O)C1=CC=C(C=C1)CCOC1=C(C=CC=2C(N3C(C(NC21)OC)CC(=C3)C=CC(=O)N)=O)C | C26H27N3O6
